US08445480B2
Step C: 4-(7-sec-Butyl-5-cyano-1,3-benzoxazol-2-yl)-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide
To a mixture of 4-{5-cyano-7-[(1Z)-1-methylprop-1-en-1-yl]-1,3-benzoxazol-2-yl}-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide (18 mg) in ethyl acetate (5 ml)/dichloromethane (5 ml)/methanol (5 ml) at 40° C. was added 15 mg of 10% Pd/C and the resulting mixture was degassed and flushed with nitrogen, followed by degassing and flushing with hydrogen using a double balloon. The mixture was stirred under hydrogen at 40° C. overnight, and then filtered, washing with ethyl acetate. The filtrate was concentrated and purified by flash column chromatography on a Biotage Horizon, 25M Si column, eluting with 1 column volume of 10% ethyl acetate in hexanes, followed by a linear gradient of ethyl acetate in hexanes from 10% to 100% over 10 column volumes to afford the title compound. Mass spectrum (ESI) 563.2 (M+1). 1H NMR (500 MHz, CDCl3) δ: 8.47 (d, J=4.8 Hz, 1H), 8.34 (d, J=8.2 Hz, 2H), 7.95 (d, J=8.7 Hz, 2H), 7.49 (s, 1H), 6.73 (d, J=4.8 Hz, 1H), 6.32 (t, J=5.9 Hz, 1H), 4.87 (d, J=13.3 Hz, 2H), 3.44 (t, J=6.7 Hz, 2H), 3.21 (m, 1H), 2.93 (m, 2H), 2.01 (m, 1H), 1.90 (m, 2H), 1.84 (m, 2H), 1.44 (d, J=7.1 Hz, 3H), 1.31 (m, 2H), 0.91 (t, J=8.0 Hz, 3H).

reactant | 4-{5-cyano-7-[(1Z)-1-methylprop-1-en-1-yl]-1,3-benzoxazol-2-yl}-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide | 18 mg | C(#N)C=1C=C(C2=C(N=C(O2)C2=CC=C(C(=O)NCC3CCN(CC3)C3=NC=CC(=N3)C(F)(F)F)C=C2)C1)\C(=C/C)\C | C30H27F3N6O2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 4-(7-sec-Butyl-5-cyano-1,3-benzoxazol-2-yl)-N-({1-[4-(trifluoromethyl)pyrimidin-2-yl]piperidin-4-yl}methyl)benzamide | C(C)(CC)C1=CC(=CC=2N=C(OC21)C2=CC=C(C(=O)NCC1CCN(CC1)C1=NC=CC(=N1)C(F)(F)F)C=C2)C#N | C30H29F3N6O2
